US04500346
A solution of 34.7 g of 2-[4-(3,5-dichloro-2-pyridyloxy)-phenoxy]-propionyl chloride in 80 ml of toluene was added dropwise at 0° to 10° C. to a solution of 16.8 g of 2-benzylthioethanol and 10.1 g of triethylamine in 100 ml of toluene whilst stirring. After the addition was completed, the mixture was stirred further at 30° to 40° C. for 1 hour. The mixture was washed successively with a 1% aqueous solution of sodium hydroxide and water, and dried. Upon distilling off the toluene under reduced pressure, there were obtained 44.9 g of 2-benzylthioethyl 2-[4-(3,5-dichloro-2-pyridyloxy)-phenoxy]-propionate in the form of a colorless viscous oil. nD20 =1.5940.

reactant | 2-[4-(3,5-dichloro-2-pyridyloxy)-phenoxy]-propionyl chloride | 34.7 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C14H10Cl3NO3
reactant | 2-benzylthioethanol | 16.8 g | C(C1=CC=CC=C1)SCCO | C9H12OS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzylthioethyl 2-[4-(3,5-dichloro-2-pyridyloxy)-phenoxy]-propionate | 44.9 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OCCSCC2=CC=CC=C2)C)C=C1 | C23H21Cl2NO4S
